US07456164B2
4-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}-1H-imidazole
The 5-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-yl}-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole (500 mg) was dissolved in EtOH saturated with ammonia (7 ml) before heating in a bomb at 110° C. for 18 hours. The solvent was removed in vacuo and the residue was taken up in DCM (10 ml) and washed with saturated sodium bicarbonate solution (15 ml), followed by brine (15 ml). The organic layer was dried over Na2SO4 and concentrated in vacuo, before purifying by column chromatography, eluting with a gradient of DCM:MeOH:NH3 (from 99:1:0.1 to 90:10:1), but this failed to separate the product from a close running impurity. The residue was therefore purified using column chromatography a second time, eluting with an isocratic solution of cyclohexane:DCM:Et2O:MeOH:NH3 (10:5:3:2:0.2) to afford the title compound as a colourless solid (70 mg, 12%). 1H NMR (400 MHz, CDCl3) δ 1.8 (m, 4H), 1.93-2.05 (m, 2H), 2.24-2.39 (m, 4H), 2.57 (m, 4H), 2.63 (t, 2H), 3.67 (m, 2H), 3.79 (m, 2H), 4.00 (t, 2H), 6.77 (s, 1H), 6.81 (d, 2H), 7.18 (d, 2H), 7.38 (s, 1H). LRMS ESI+ m/z 356 [MH]+, 354 [M−H+]−.

reactant | 5-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-yl}-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole | 500 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C1C(N=CO1)S(=O)(=O)C1=CC=C(C=C1)C | C28H36N2O5S
reactant | ammonia | 7 ml | N | H3N
solvent | EtOH | CCO | C2H6O
product | 4-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}-1H-imidazole | 70 mg, 12% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=1N=CNC1 | C21H29N3O2
